US06531502B1
3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid (5.4 g), 3.7 g of 5-chloro-2-oxindole and 2.7 g of piperidine (or 2.2 g of pyrrolidine) in 25 mL of ethanol was refluxed for 4 hours. Slow addition of acetic acid (8 mL) resulted in a precipitate. The mixture was refluxed for 5 minutes and cooled to ambient temperature. The precipitate was collected by vacuum filtration and washed with 20 mL of ethanol. The solids were slurry-washed by refluxing in 30 mL of ethanol, cooled, collected by vacuum filtration, washed with 30 mL of ethanol and dried under high vacuum to give 6.5 g (80% yield) 3-[2-(5-chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1-H-indol-3-yl]-propionic acid as an orange solid: mp 370-384° C.

reactant | 3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propionic acid | 5.4 g | C(=O)C=1NC=2CCCCC2C1CCC(=O)O | C12H15NO3
reactant | 5-chloro-2-oxindole | 3.7 g | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
reactant | piperidine | 2.7 g | N1CCCCC1 | C5H11N
reactant | pyrrolidine | 2.2 g | N1CCCC1 | C4H9N
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | 3-[2-(5-chloro-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4,5,6,7-tetrahydro-1-H-indol-3-yl]-propionic acid | 6.5 g, 80% yield | ClC=1C=C2C(C(NC2=CC1)=O)=CC=1NC=2CCCCC2C1CCC(=O)O | C20H19ClN2O3
